US04564617
In toluene, 7.9 g of 1-(5-bromo-n-pentyl)theobromine, 5.0 g of N-benzyhydrylpiperazine and 4 g of triethylamine are stirred under reflux for 30 hours. The subsequent treatments are carried out in the same manner as described in Example 96. The obtained crude crystal is converted to a hydrochloride according to customary procedures to obtain 4.7 g of intended 1-}5-[4-benzhydrylpiperazinyl-(1)]-n-pentyl}-theobromine hydrochloride (the yield being 40.9%).

reactant | 1-(5-bromo-n-pentyl)theobromine | 7.9 g | BrCCCCCN1C(=O)N(C)C=2N=CN(C)C2C1=O | C12H17BrN4O2
reactant | triethylamine | 4 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloride | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | theobromine hydrochloride | Cl.N1C(=O)N(C)C=2N=CN(C)C2C1=O | InChI=1S/C7H8N4O2.ClH/c1-10-3-8-5-4(10)6(12)9-7(13)11(5)2;/h3H,1-2H3,(H,9,12,13);1H
